US08017779B2
A slurry of 7-bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline (6.6 g, 16.2 mmol) in ethyl acetate (55 mL) was heated to 50° C. Peroxyacetic acid (5.12 mL, 24.4 mmol, of 32% in dilute acetic acid) was added dropwise over a period of 2 minutes. The reaction was allowed to stir at 50° C. for 2 hours. Additional peroxyacetic acid (1 mL) was added and the reaction mixture was stirred for an additional 2 hours. A solution of sodium metabisulfite (4.01 g, 21.1 mmol) in water (8 mL) was added. Following the addition of the sodium metabisulfite, the pH of the reaction mixture was adjusted to pH 10 with aqueous saturated sodium bicarbonate. The layers were separated and the aqueous layer was extracted with dichloromethane (2×50 mL). The combined organics were washed sequentially with water and brine, dried over sodium sulfate, filtered, and then concentrated under reduced pressure to provide a yellow solid. This material was purified by flash chromatography (150 g of silica gel eluting with a gradient of 1-12% CMA in chloroform) to provide 5.49 g of 7-bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline-5-oxide.

reactant | 7-bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline | 16.2 mmol, 6.6 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCOC(C)C)COCC | C19H24BrN3O2
reactant | Peroxyacetic acid | 24.4 mmol, 5.12 mL | C(C)(=O)OO | C2H4O3
reactant | peroxyacetic acid | 1 mL | C(C)(=O)OO | C2H4O3
reactant | sodium metabisulfite | 21.1 mmol, 4.01 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 55 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 8 mL | O | H2O
product | 7-bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline-5-oxide | 5.49 g | BrC=1C=CC=2C3=C(C=[N+](C2C1)[O-])N=C(N3CCCOC(C)C)COCC | C19H24BrN3O3
